US07727998B2
2,2-Bis(4-fluorophenyl)-N-methyl-N-[3-(4-(6-fluoro-3-pyridinyl)piperidin-1-yl)propyl]acetamide
Example 9 was repeated except that spiro[isobenzofuran-1(3H), 4′-piperidine] hydrochloride which was used in Example 9-(2) was replaced with 4-(6-fluoro-3-pyridinyl)piperidine, and 2-(3,4-difluorophenyl)-2-(2-oxo-1-pyrrolidinyl)acetic acid which was used in Example 9-(4), with 2,2-bis(4-fluorophenyl)acetic acid, to provide the title compound.

reactant | spiro[isobenzofuran-1(3H), 4′-piperidine] hydrochloride | Cl.N1CCC2(CC1)OCC1=CC=CC=C12
reactant | 4-(6-fluoro-3-pyridinyl)piperidine | FC1=CC=C(C=N1)C1CCNCC1 | C10H13FN2
reactant | 2-(3,4-difluorophenyl)-2-(2-oxo-1-pyrrolidinyl)acetic acid | FC=1C=C(C=CC1F)C(C(=O)O)N1C(CCC1)=O | C12H11F2NO3
reactant | 2,2-bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
product | 2,2-Bis(4-fluorophenyl)-N-methyl-N-[3-(4-(6-fluoro-3-pyridinyl)piperidin-1-yl)propyl]acetamide | FC1=CC=C(C=C1)C(C(=O)N(CCCN1CCC(CC1)C=1C=NC(=CC1)F)C)C1=CC=C(C=C1)F | C28H30F3N3O
